US08492582B2
4-Hydroxy-1-methylpiperidine (0.17 g), triphenylphosphine (0.39 g), and diisopropyl azodicarboxylate (0.30 mL) were added to a tetrahydrofuran (3.0 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate (0.15 g), followed by stirring at room temperature for 3 hours and 20 minutes. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography [eluent: 60-50% hexane/ethyl acetate to 100-90% chloroform/methanol] to obtain tert-butyl 2-(2-(benzyloxy)-5-((1-methylpiperidin-4-yl)oxy)benzamido)-4-phenylbenzoate.

reactant | 4-Hydroxy-1-methylpiperidine | 0.17 g | OC1CCN(CC1)C | C6H13NO
reactant | triphenylphosphine | 0.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.30 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | tert-butyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate | 0.15 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)O | C31H29NO5
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-(2-(benzyloxy)-5-((1-methylpiperidin-4-yl)oxy)benzamido)-4-phenylbenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OC1CCN(CC1)C | C37H40N2O5
